US04743601
3-Bromo-7-chloro-N-(1-hydroxycyclohexylmethyl)-4-quinolinamine
A solution of 11.2 g of 7-chloro-N-(1-hydroxycyclohexylmethyl)-4-quinolinamine in 130 ml of glacial acetic acid was stirred at room temperature and 6.15 g of bromine was added dropwise. The product precipitated from the solution as the hydrobromide salt and was isolated by filtration. The solid was then suspended in water and basified with sodium hydroxide. After two hours of stirring, the solid was collected by filtration. By combustion analysis, the product proved to be a hemi-hydrobromide salt, and therefore, it was necessary to dissolve the solid in methanol and 1 equivalent of trietylamine with heating. A solid resulted which was recrystallized from ethanol to give 7 g of crystalline solid with a melting point of 151°-154° C.

reactant | 7-chloro-N-(1-hydroxycyclohexylmethyl)-4-quinolinamine | 11.2 g | ClC1=CC=C2C(=CC=NC2=C1)NCC1(CCCCC1)O | C16H19ClN2O
reactant | bromine | 6.15 g | BrBr | Br2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | trietylamine | 1 equivalent | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-Bromo-7-chloro-N-(1-hydroxycyclohexylmethyl)-4-quinolinamine | 7 g | BrC=1C=NC2=CC(=CC=C2C1NCC1(CCCCC1)O)Cl | C16H18BrClN2O
